US05744426
Ethyl 3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)-2-cyanopropenoate (ib.223)
2.4 g (21 mmol) of ethyl cyanoacetate and 0.3 g (4.2 mmol) of sodium ethanolate were added to a solution of 7.5 g (21 mmol) of 4-chloro-3-(2,4-dichloro-5-formylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole in 70 ml of ethanol. The mixture was stirred for 4 hours then poured into ice-water, after which the solid product was filtered off, washed with n-hexane and then dried. Yield: 4.9 g.

reactant | ethyl cyanoacetate | 21 mmol, 2.4 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium ethanolate | 4.2 mmol, 0.3 g | C(C)[O-].[Na+]
reactant | 4-chloro-3-(2,4-dichloro-5-formylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 21 mmol, 7.5 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)C=O)Cl)Cl | C12H7Cl3F2N2O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | Ethyl 3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)-2-cyanopropenoate | ClC1=C(C=C(C(=C1)Cl)C1=NN(C(=C1Cl)OC(F)F)C)C=C(C(=O)OCC)C#N | C17H12Cl3F2N3O3
